US08008298B2
1-[2-(2-Hydroxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 2-hydroxybenzeneboronic acid following general procedures as described in these Examples. Silica gel chromatography using 5-70% EtOAc in hexanes as eluant gave 53 mg (28%) of a yellow solid. MP 282-283° C., M+H=296.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 2-hydroxybenzeneboronic acid | OC1=C(C=CC=C1)B(O)O | C6H7BO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[2-(2-Hydroxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | OC1=C(C=CC=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C17H17N3O2
